US05859009
5-Chloro-6-ethyl-4-(2-n-pentyl-1-oxaspiro[2.5]oct-6-ylamino)pyrimidine
A solution of 4.0 g (0.02 mol) of m-chloroperbenzoic acid (85% strength) in 25 ml of dichloromethane was slowly added dropwise at 0° C. to a solution of 6.4 g (0.02 mol) of 5-chloro-6-ethyl-4-(4-hexylidenecyclohexylamino)pyrimidine (WO 95 07894) in 25 ml of dichloromethane. Stirring of the mixture was continued at room temperature for 4 hours. After the mixture had been allowed to stand overnight, it was extracted by stirring with aqueous sodium hydrogen carbonate solution, and the organic phase was dried and concentrated. The crude product was chromatographed on silica gel (petroleum ether/ethyl acetate 4:1). First, 1.8 g (265.6% of theory) of the isomer having the higher Rf value (0.62) were eluted (colorless crystals, m.p.: 41°-42° C.), followed by 1.2 g (18.2% of theory) of isomer mixture and 0.22 g (3.3% of theory) of the isomer having the lower Rf value (0.53) as a colorless oil.

reactant | m-chloroperbenzoic acid | 0.02 mol, 4.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-chloro-6-ethyl-4-(4-hexylidenecyclohexylamino)pyrimidine | 0.02 mol, 6.4 g | ClC=1C(=NC=NC1CC)NC1CCC(CC1)=CCCCCC | C18H28ClN3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-Chloro-6-ethyl-4-(2-n-pentyl-1-oxaspiro[2.5]oct-6-ylamino)pyrimidine | ClC=1C(=NC=NC1CC)NC1CCC2(C(O2)CCCCC)CC1 | C18H28ClN3O
